US07199147B2
Acetone (25 μl, 0.340 mmol), sodium triacetoxyborohydride (83 mg, 0.392 mmol) and acetic acid (18 μl, 0.314 mmol) were added in that order to a solution of 5-amino-1H-indazole (40 mg, 0.300 mmol) in 1,2-dichloroethane (1 ml), and the resulting mixture was stirred at room temperature for 20 hours. The reaction was terminated by the use of a saturated aqueous sodium hydrogencarbonate solution (4 ml), followed by extraction with ethyl acetate. The solvent was distilled off under reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography (eluent: chloroform/methanol=100/2) to obtain N-isopropyl-1H-indazol-5-amine (40 mg, 76%).

reactant | Acetone | 0.340 mmol, 25 μl | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.392 mmol, 83 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.314 mmol, 18 μl | C(C)(=O)O | C2H4O2
reactant | 5-amino-1H-indazole | 0.300 mmol, 40 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | N-isopropyl-1H-indazol-5-amine | 40 mg, 76% | C(C)(C)NC=1C=C2C=NNC2=CC1 | C10H13N3
